US08349880B2
Step AX (1): Sodium hydride (60% in mineral oil, 1.70 g, 42.5 mmol) was carefully added portionwise to a solution of methyl 2-(4-hydroxyphenyl)acetate (7.06 g, 42.5 mmol) in THF (200 mL) maintained at 0° C. The cold bath was removed and the mixture was allowed to warm to rt and stir for 30 min. A solution of 2,2-difluoroethyl trifluoromethanesulfonate (10.0 g, 46.7 mmol) in THF (20 mL) was added and the resulting mixture was left to stir for 18 h. A solution of 2 N LiOH/water (40 mL, 80 mmol) was added to the crude reaction mixture and the resulting solution stirred at rt for 3 h. The reaction mixture was poured into 1 N HCl (250 mL) and extracted with Et2O. The combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated. The residue was triturated with hexane. The crystalline solid was collected by vacuum filtration to afford 2-(4-(2,2-difluoroethoxy)phenyl)acetic acid (9.90 g, 45.8 mmol, 108% yield) as an off-white solid. LC-MS (M−H)− 215.1. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.23 (d, J=8.5 Hz, 2 H), 6.89 (d, J=8.5 Hz, 2 H), 6.03-6.14 (m, 1 H), 4.18 (td, J=13.0, 4.1 Hz, 2 H), 3.61 (s, 2 H).

reactant | Sodium hydride | 42.5 mmol, 1.70 g | [H-].[Na+]
reactant | methyl 2-(4-hydroxyphenyl)acetate | 42.5 mmol, 7.06 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | 2,2-difluoroethyl trifluoromethanesulfonate | 46.7 mmol, 10.0 g | FC(S(=O)(=O)OCC(F)F)(F)F | C3H3F5O3S
reactant | LiOH water | 80 mmol, 2 N, 40 mL | [Li+].[OH-].O
reactant | HCl | 1 N, 250 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(4-(2,2-difluoroethoxy)phenyl)acetic acid | 45.8 mmol, 9.90 g, 108% yield | FC(COC1=CC=C(C=C1)CC(=O)O)F | C10H10F2O3
